US04975538
Alternative preparation of cis-(±)-4-(Hydroxy-methyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone
A solution of 1.63 g of sodium borohydride in 25 ml of water is added dropwise to a well stirred solution of 3.0 g of cis-(±)-4-(methoxycarbonyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone in 190 ml of tetrahydrofuran. The addition is made over a period of 10 minutes while stirring in an ice bath. The reaction is stirred for 3 hours. Methylene dichloride (250 ml) is added followed by anhydrous sodium sulfate. A clear solution is obtained by filtration. The solvent is removed and the residue is dissolved in acetone. The solution is clarified by filtration and concentrated to give 2.84 g of the title compound. Physical characteristics are as follows: 13C NMR (δ, CH3OH-d6): 55.9, 60.2, 61.6 67.9, 128.7-129.3, 137.6, 158, 170.7.

reactant | sodium borohydride | 1.63 g | [BH4-].[Na+]
reactant | cis-(±)-4-(methoxycarbonyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone | 3.0 g | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C13H14N2O5
reactant | Methylene dichloride | 250 ml | C(Cl)Cl | CH2Cl2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
product | cis-(±)-4-(Hydroxy-methyl)-3-[((phenylmethoxy)carbonyl)amino]-2-azetidinone | 2.84 g | OC[C@@H]1[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C12H14N2O4
